US05547954
This compound is prepared in a manner analogous to that of Step B of Example 6, using 9.1 grams (0.032 mole) of 3-fluoro-5-(4-fluorophenoxy)phenyl bromide, 14 mL (0.035 mole) of n-butyllithium (2.5M in hexanes), and 10.4 mL (0.095 mole) of trimethyl borate in 100 mL of tetrahydrofuran, yielding 3-fluoro-5-(4-fluorophenoxy)phenylboronic acid.

reactant | 3-fluoro-5-(4-fluorophenoxy)phenyl bromide | 0.032 mole, 9.1 grams | FC=1C=C(C=C(C1)OC1=CC=C(C=C1)F)Br | C12H7BrF2O
reactant | n-butyllithium | 0.035 mole, 2.5M, 14 mL | C(CCC)[Li]
reactant | trimethyl borate | 0.095 mole, 10.4 mL | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-fluoro-5-(4-fluorophenoxy)phenylboronic acid | FC=1C=C(C=C(C1)OC1=CC=C(C=C1)F)B(O)O | C12H9BF2O3
